US07851474B2
L. 1-Biphenyl-3-yl-4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazine (Compound 12)
In a sealed vial, dissolve 1-(3-bromophenyl)-4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazine (17 mg, 0.04 mmol), phenyl boronic acid (9.8 mg, 0.08 mmol), and Pd(PPh3)4 (2.3 mg, 0.002 mmol) in dioxane (0.7 mL) and 2N K2CO3 (0.1 mL). Degas with N2 and seal the vial. Heat the mixture at 85° C. overnight. Cool and add partition EtOAc (0.5 mL) and 1N NaOH (0.5 mL). Extract the organic phase and place directly on SCX ion exchange resin. Wash the resin with EtOAc/MeOH (9:1). Discard this wash. Wash the resin with EtOAc/MeOH/TEA(9:1:1) and collect. Remove the solvent to yield the title compound. 1H NMR (CDCl3) δ 7.59-7.56 (m, 2H) 7.45-7.40 (m, 2H), 7.36-7.31 (m, 2H), 7.13-7.07 (m, 2H) 6.94-6.90 (m, 1H), 3.64 (t, 4H), 3.29-3.25 (m, 6H), 2.73-2.67 (m, 5H), 2.33-2.27 (m, 4H), 2.06-2.02 (m, 2H), 1.90-1.83 (m, 2H), 1.75-1.69 (m, 2H); LC-MS (M+1) 419.06.

reactant | 1-(3-bromophenyl)-4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazine | 0.04 mmol, 17 mg | BrC=1C=C(C=CC1)N1CCN(CC1)CC(=O)N1CCN(CC1)C1CCC1 | C20H29BrN4O
reactant | phenyl boronic acid | 0.08 mmol, 9.8 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dioxane | 0.7 mL | O1CCOCC1 | C4H8O2
solvent | K2CO3 | 2N, 0.1 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.002 mmol, 2.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Biphenyl-3-yl-4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazine | C1(=CC(=CC=C1)N1CCN(CC1)CC(=O)N1CCN(CC1)C1CCC1)C1=CC=CC=C1 | C26H34N4O
